US04562187
[5-[(4-Phenylpiperazin-1-yl)methyl]isoxazol-3-yl]phenylmethanone
A solution of 3.5 g of (5-bromomethylisoxazol-3-yl)-phenylmethanone in 100 ml of Et2O was added dropwise to a solution of 8.6 g of phenylpiperazine in 375 ml of 20% acetone/Et2O. The resulting mixture was stirred at room temperature for 72 hours. This mixture was washed with water and brine, and dried over MgSO4. Concentration of the product gave an oil, which was taken up in 500 ml of CH2Cl2 and stirred with 20 g of silica gel overnight. The silica was removed by filtration and washed with 500 ml of CH2Cl2. The combined filtrates were concentrated to give 4.7 g of an oil which solidified on standing. Recrystallization from ethanol yielded 3.1 g (69%) of platelets, m.p. 100°-102° C.

reactant | (5-bromomethylisoxazol-3-yl)-phenylmethanone | 3.5 g | BrCC1=CC(=NO1)C(=O)C1=CC=CC=C1 | C11H8BrNO2
reactant | phenylpiperazine | 8.6 g | C=1C=CC(=CC1)N2CCNCC2 | C10H14N2
solvent | Et2O | 100 ml | CCOCC | C4H10O
solvent | acetone Et2O | 375 ml | CC(=O)C.CCOCC
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | [5-[(4-Phenylpiperazin-1-yl)methyl]isoxazol-3-yl]phenylmethanone | 4.7 g | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC(=NO1)C(=O)C1=CC=CC=C1 | C21H21N3O2
